US06822109B2
Preparation of 9-methoxymethyl-9-(tert-butyidimethylsilyl)oxymethyl-fluorene
1 g of 9-methoxymethyl-9-hydroxymethyl-fluorene (4.2 mmol) was dissolved in 10 ml of N,N-dimethyl formamide, and 0.14 g of imidazole was added thereto. The mixture was cooled in ice-water bath, and 0.87 ml of triethyl amine (6.2 mmol) was added thereto. After stirring for 5 minutes, 0.88 g of tert-butyldimethylsilyl chloride (5.8 mmol) in 10 ml of N,N-dimethyl formamide was added drop-wise, and the mixture was stirred for further 2 hours, followed by stirring at room temperature for 1 hour. The reaction mixture was diluted with 10 ml of water, and extracted twice using 20 ml of dichloromethane for each time. The combined dichloromethane extract was dried over anhydrous sodium sulfate. After filtration, the filtrate was evaporated to give 1.28 g of concentrate (yield 87.6%).

reactant | 9-methoxymethyl-9-hydroxymethyl-fluorene | 4.2 mmol, 1 g | COCC1(C2=CC=CC=C2C=2C=CC=CC12)CO | C16H16O2
reactant | imidazole | 0.14 g | N1C=NC=C1 | C3H4N2
reactant | triethyl amine | 6.2 mmol, 0.87 ml | C(C)N(CC)CC | C6H15N
reactant | tert-butyldimethylsilyl chloride | 5.8 mmol, 0.88 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | N,N-dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | 10 ml | O | H2O
product | 9-methoxymethyl-9-(tert-butyidimethylsilyl)oxymethyl-fluorene | yield 87.6% | COCC1(C2=CC=CC=C2C=2C=CC=CC12)CO[Si](C)(C)C(C)(C)C | C22H30O2Si
